US04051254
3,5-Dimethyl-4-(n-propanesulfonamido)phenyl N-methylcarbamate
Following the procedure of Example 22, 3,5-dimethyl-4-aminophenyl N-methylcarbamate (0.8g., 0.004 mole) was reacted with n-propanesulfonyl chloride (0.60g., 0.0042 mole) in pyridine. The product (0.8g.) melted at 173°-76° C.

reactant | 3,5-dimethyl-4-aminophenyl N-methylcarbamate | 0.004 mole, 0.8g | CNC(OC1=CC(=C(C(=C1)C)N)C)=O | C10H14N2O2
reactant | n-propanesulfonyl chloride | 0.0042 mole, 0.60g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,5-Dimethyl-4-(n-propanesulfonamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C(=C1)C)NS(=O)(=O)CCC)C)=O | C13H20N2O4S
